US05508420
9.9 g (0.05 mol) of 4-ethyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazole-3-thione and 50 ml of 2.5-molar sodium hydroxide solution are introduced. 17 ml (0.165 mol) of 30% strength hydrogen peroxide solution are added dropwise in the course of 20 minutes at a maximum temperature of 40° C. to 50° C. (cooling), stirring is continued for 6 hours at 40° C., the excess of hydrogen peroxide is removed by adding sodium hydrogen sulphite, and the mixture is acidified using concentrated hydrochloric acid and refluxed for 10 hours. When cold, the mixture is poured into ice-water, this is extracted repeatedly using dichloromethane, the combined organic phases are dried over sodium sulphate, and the solvent is evaporated on a rotary evaporator. 5.2 g (58% of theory) of 4-ethyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazol-3-one of melting point 53° C. are obtained.

reactant | 4-ethyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 0.05 mol, 9.9 g | C(C)N1C(NN=C1C(F)(F)F)=S | C5H6F3N3S
reactant | hydrogen peroxide | OO | H2O2
solvent | sodium hydroxide | 2.5-molar, 50 ml | [OH-].[Na+]
product | 4-ethyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 5.2 g, 58% | C(C)N1C(NN=C1C(F)(F)F)=O | C5H6F3N3O
